US06800637B2
3-{3-[(8-Methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl)-amino]-propyl}-1H-indole-5-carbonitrile
A solution of (2R)-4-bromobenzenesulfonic acid 2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl ester (1.13 g, 2.5 mmol), 3-(5-cyano-1H-indol-3-yl)propylamine (0.65 g, 3.2 mmol) and triethylamine (0.7 mL, 5.0 mmol) in dimethylsulfoxide (40 mL) was heated at 90° C. under nitrogen for 16 hours. The reaction mixture was quenched with 1N sodium hydroxide and extracted with methylene chloride (3×100 mL). The organic layer was washed with water (3×150 mL), dried over anhydrous sodium sulfate, filtered and the solvent was removed under vacuum. The crude oil was column chromatographed on silica gel (10% methanol-ethyl acetate). The product-containing fractions were concentrated in vacuum to give 0.54 g of the (S)-enantiomer of the title compound as a brown oil. The dihydrochloride salt was prepared in ethyl acetate as a yellow solid, m.p. 170-174° C.

reactant | (2R)-4-bromobenzenesulfonic acid 2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl ester | 2.5 mmol, 1.13 g | O1[C@H](COC=2C1=C1C=CC=NC1=CC2)COS(=O)(=O)C2=CC=C(C=C2)Br | C18H14BrNO5S
reactant | 3-(5-cyano-1H-indol-3-yl)propylamine | 3.2 mmol, 0.65 g | C(#N)C=1C=C2C(=CNC2=CC1)CCCN | C12H13N3
reactant | triethylamine | 5.0 mmol, 0.7 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylsulfoxide | 40 mL | CS(=O)C | C2H6OS
product | 3-{3-[(8-Methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl)-amino]-propyl}-1H-indole-5-carbonitrile | CC1=NC2=CC=C3C(=C2C=C1)OC(CO3)CNCCCC3=CNC1=CC=C(C=C31)C#N | C25H24N4O2
